*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-B03E  
*  
* Parameters derived from information available in data sheet.  
*
*                 anode-e
*                 |  anode-d
*                 |  |  anode-DP
*                 |  |  |  anode-c
*                 |  |  |  |  anode-g
*                 |  |  |  |  |  common-cathode-4
*                 |  |  |  |  |  |  anode-b
*                 |  |  |  |  |  |  |  common-cathode-3
*                 |  |  |  |  |  |  |  |  common-cathode-2
*                 |  |  |  |  |  |  |  |  |  anode-f
*                 |  |  |  |  |  |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  |  |  |  |  |  common-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_B03E 1  2  3  4  5  6  7  8  9  10 11 12

DA0  11 12 dHDSP_B03E
DB0   7 12 dHDSP_B03E
DC0   4 12 dHDSP_B03E
DD0   2 12 dHDSP_B03E
DE0   1 12 dHDSP_B03E
DF0  10 12 dHDSP_B03E
DG0   5 12 dHDSP_B03E

DA1  11  9 dHDSP_B03E
DB1   7  9 dHDSP_B03E
DC1   4  9 dHDSP_B03E
DD1   2  9 dHDSP_B03E
DE1   1  9 dHDSP_B03E
DF1  10  9 dHDSP_B03E
DG1   5  9 dHDSP_B03E
DDP1  3  9 dHDSP_B03E

DA2  11  8 dHDSP_B03E
DB2   7  8 dHDSP_B03E
DC2   4  8 dHDSP_B03E
DD2   2  8 dHDSP_B03E
DE2   1  8 dHDSP_B03E
DF2  10  8 dHDSP_B03E
DG2   5  8 dHDSP_B03E
DDP2  3  8 dHDSP_B03E

DA3  11  6 dHDSP_B03E
DB3   7  6 dHDSP_B03E
DC3   4  6 dHDSP_B03E
DD3   2  6 dHDSP_B03E
DE3   1  6 dHDSP_B03E
DF3  10  6 dHDSP_B03E
DG3   5  6 dHDSP_B03E
 
.MODEL dHDSP_B03E D
+ (  
+     IS = 1.62605804E-27 
+      N = 1.17901481 
+     RS = 10.42683582 
+     BV = 4.8
+    IBV = 100u 
+ )  

.ENDS HDSP_B03E