*  
* Diode Model Produced by Altium Ltd  
* Date:  7-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-B04E  
*  
* Parameters derived from information available in data sheet.  
*
*                 cathode-e
*                 |  cathode-d
*                 |  |  cathode-DP
*                 |  |  |  cathode-c
*                 |  |  |  |  cathode-g
*                 |  |  |  |  |  common-anode-4
*                 |  |  |  |  |  |  cathode-b
*                 |  |  |  |  |  |  |  common-anode-3
*                 |  |  |  |  |  |  |  |  common-anode-2
*                 |  |  |  |  |  |  |  |  |  cathode-f
*                 |  |  |  |  |  |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  |  |  |  |  |  common-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  |
.SUBCKT HDSP_B04E 1  2  3  4  5  6  7  8  9  10 11 12

DA0  12  11 dHDSP_B04E
DB0  12   7 dHDSP_B04E
DC0  12   4 dHDSP_B04E
DD0  12   2 dHDSP_B04E
DE0  12   1 dHDSP_B04E
DF0  12  10 dHDSP_B04E
DG0  12   5 dHDSP_B04E

DA1   9 11 dHDSP_B04E
DB1   9  7 dHDSP_B04E
DC1   9  4 dHDSP_B04E
DD1   9  2 dHDSP_B04E
DE1   9  1 dHDSP_B04E
DF1   9 10 dHDSP_B04E
DG1   9  5 dHDSP_B04E
DDP1  9  3 dHDSP_B04E

DA2   8 11 dHDSP_B04E
DB2   8  7 dHDSP_B04E
DC2   8  4 dHDSP_B04E
DD2   8  2 dHDSP_B04E
DE2   8  1 dHDSP_B04E
DF2   8 10 dHDSP_B04E
DG2   8  5 dHDSP_B04E
DDP2  8  3 dHDSP_B04E

DA3   6 11 dHDSP_B04E
DB3   6  7 dHDSP_B04E
DC3   6  4 dHDSP_B04E
DD3   6  2 dHDSP_B04E
DE3   6  1 dHDSP_B04E
DF3   6 10 dHDSP_B04E
DG3   6  5 dHDSP_B04E
 
.MODEL dHDSP_B04E D
+ (  
+     IS = 1.62605804E-27 
+      N = 1.17901481 
+     RS = 10.42683582 
+     BV = 4.8
+    IBV = 100u 
+ )  

.ENDS HDSP_B04E