*  
* Diode Model Produced by Altium Ltd  
* Date:  5-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-B02G  
*  
* Parameters derived from information available in data sheet.  
* 
*                 cathode-e
*                 |  cathode-d
*                 |  |  cathode-DP
*                 |  |  |  cathode-c
*                 |  |  |  |  cathode-g
*                 |  |  |  |  |  common-anode-K4
*                 |  |  |  |  |  |  cathode-b
*                 |  |  |  |  |  |  |  common-anode-K3
*                 |  |  |  |  |  |  |  |  common-anode-K2
*                 |  |  |  |  |  |  |  |  |  cathode-f
*                 |  |  |  |  |  |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  |  |  |  |  |  common-anode-K1
*                 |  |  |  |  |  |  |  |  |  |  |  | 
.SUBCKT HDSP_B02G 1  2  3  4  5  6  7  8  9  10 11 12

DB1  12  7 dHDSP_B02G
DC1  12  4 dHDSP_B02G

DA2   9 11 dHDSP_B02G
DB2   9  7 dHDSP_B02G
DC2   9  4 dHDSP_B02G
DD2   9  2 dHDSP_B02G
DE2   9  1 dHDSP_B02G
DF2   9 10 dHDSP_B02G
DG2   9  5 dHDSP_B02G
DDP2  9  3 dHDSP_B02G

DA3   8 11 dHDSP_B02G
DB3   8  7 dHDSP_B02G
DC3   8  4 dHDSP_B02G
DD3   8  2 dHDSP_B02G
DE3   8  1 dHDSP_B02G
DF3   8 10 dHDSP_B02G
DG3   8  5 dHDSP_B02G
DDP3  8  3 dHDSP_B02G

DA4   6 11 dHDSP_B02G
DB4   6  7 dHDSP_B02G
DC4   6  4 dHDSP_B02G
DD4   6  2 dHDSP_B02G
DE4   6  1 dHDSP_B02G
DF4   6 10 dHDSP_B02G
DG4   6  5 dHDSP_B02G

.MODEL dHDSP_B02G D
+ (  
+     IS = 3.48036841E-22 
+      N = 1.64316142 
+     RS = 13.66953373 
+     BV = 4.8
+    IBV = 100u 
+ )  

.ENDS HDSP_B02G