*  
* Diode Model Produced by Altium Ltd  
* Date:  5-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-B04G  
*  
* Parameters derived from information available in data sheet.  
* 
*                 cathode-e
*                 |  cathode-d
*                 |  |  cathode-DP
*                 |  |  |  cathode-c
*                 |  |  |  |  cathode-g
*                 |  |  |  |  |  common-anode-K4
*                 |  |  |  |  |  |  cathode-b
*                 |  |  |  |  |  |  |  common-anode-K3
*                 |  |  |  |  |  |  |  |  common-anode-K2
*                 |  |  |  |  |  |  |  |  |  cathode-f
*                 |  |  |  |  |  |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  |  |  |  |  |  common-anode-K1
*                 |  |  |  |  |  |  |  |  |  |  |  | 
.SUBCKT HDSP_B04G 1  2  3  4  5  6  7  8  9  10 11 12

DA1  12 11  dHDSP_B04G
DB1  12  7  dHDSP_B04G
DC1  12  4  dHDSP_B04G
DD1  12  2  dHDSP_B04G
DE1  12  1  dHDSP_B04G
DF1  12 10  dHDSP_B04G
DG1  12  5  dHDSP_B04G

DA2   9 11  dHDSP_B04G
DB2   9  7  dHDSP_B04G
DC2   9  4  dHDSP_B04G
DD2   9  2  dHDSP_B04G
DE2   9  1  dHDSP_B04G
DF2   9 10  dHDSP_B04G
DG2   9  5  dHDSP_B04G
DDP2  9  3  dHDSP_B04G

DA3   8 11  dHDSP_B04G
DB3   8  7  dHDSP_B04G
DC3   8  4  dHDSP_B04G
DD3   8  2  dHDSP_B04G
DE3   8  1  dHDSP_B04G
DF3   8 10  dHDSP_B04G
DG3   8  5  dHDSP_B04G
DDP3  8  3  dHDSP_B04G

DA4   6 11  dHDSP_B04G
DB4   6  7  dHDSP_B04G
DC4   6  4  dHDSP_B04G
DD4   6  2  dHDSP_B04G
DE4   6  1  dHDSP_B04G
DF4   6 10  dHDSP_B04G
DG4   6  5  dHDSP_B04G

.MODEL dHDSP_B04G D
+ (  
+     IS = 3.48036841E-22 
+      N = 1.64316142 
+     RS = 13.66953373 
+     BV = 4.8
+    IBV = 100u 
+ )  

.ENDS HDSP_B04G