*  
* Diode Model Produced by Altium Ltd  
* Date:  5-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-B42G  
*  
* Parameters derived from information available in data sheet.  
* 
*                 cathode-e
*                 |  cathode-d
*                 |  |  cathode-DP
*                 |  |  |  cathode-c
*                 |  |  |  |  cathode-g
*                 |  |  |  |  |  common-anode-4
*                 |  |  |  |  |  |  cathode-b
*                 |  |  |  |  |  |  |  common-anode-3
*                 |  |  |  |  |  |  |  |  common-anode-2
*                 |  |  |  |  |  |  |  |  |  cathode-f
*                 |  |  |  |  |  |  |  |  |  |  cathode-a
*                 |  |  |  |  |  |  |  |  |  |  |  common-anode-1
*                 |  |  |  |  |  |  |  |  |  |  |  | 
.SUBCKT HDSP_B42G 1  2  3  4  5  6  7  8  9  10 11 12

DB1 12  7 dHDSP_B42G
DC1 12  4 dHDSP_B42G

DA2  9 11 dHDSP_B42G
DB2  9  7 dHDSP_B42G
DC2  9  4 dHDSP_B42G
DD2  9  2 dHDSP_B42G
DE2  9  1 dHDSP_B42G
DF2  9 10 dHDSP_B42G
DG2  9  5 dHDSP_B42G
DDP2 9  3 dHDSP_B42G

DA3  8 11 dHDSP_B42G
DB3  8  7 dHDSP_B42G
DC3  8  4 dHDSP_B42G
DD3  8  2 dHDSP_B42G
DE3  8  1 dHDSP_B42G
DF3  8 10 dHDSP_B42G
DG3  8  5 dHDSP_B42G
DDP3 8  3 dHDSP_B42G

DA4  6 11 dHDSP_B42G
DB4  6  7 dHDSP_B42G
DC4  6  4 dHDSP_B42G
DD4  6  2 dHDSP_B42G
DE4  6  1 dHDSP_B42G
DF4  6 10 dHDSP_B42G
DG4  6  5 dHDSP_B42G

.MODEL dHDSP_B42G D
+ (  
+     IS = 5.45751596E-12 
+      N = 3.47011329 
+     RS = 12.18613587 
+     BV = 4.8 
+    IBV = 100u 
+ )  

.ENDS HDSP_B42G