*  
* Diode Model Produced by Altium Ltd  
* Date:  5-Apr-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-B47G  
*  
* Parameters derived from information available in data sheet.  
* 
*                 anode-e
*                 |  anode-d
*                 |  |  anode-DP
*                 |  |  |  anode-c
*                 |  |  |  |  anode-g
*                 |  |  |  |  |  common-cathode-4
*                 |  |  |  |  |  |  anode-b
*                 |  |  |  |  |  |  |  common-cathode-3
*                 |  |  |  |  |  |  |  |  common-cathode-2
*                 |  |  |  |  |  |  |  |  |  anode-f
*                 |  |  |  |  |  |  |  |  |  |  anode-a
*                 |  |  |  |  |  |  |  |  |  |  |  common-cathode-1
*                 |  |  |  |  |  |  |  |  |  |  |  | 
.SUBCKT HDSP_B47G 1  2  3  4  5  6  7  8  9  10 11 12

DB1  7 12 dHDSP_B47G
DC1  4 12 dHDSP_B47G

DA2 11  9 dHDSP_B47G
DB2  7  9 dHDSP_B47G
DC2  4  9 dHDSP_B47G
DD2  2  9 dHDSP_B47G
DE2  1  9 dHDSP_B47G
DF2 10  9 dHDSP_B47G
DG2  5  9 dHDSP_B47G
DDP2 3  9 dHDSP_B47G

DA3 11  8 dHDSP_B47G
DB3  7  8 dHDSP_B47G
DC3  4  8 dHDSP_B47G
DD3  2  8 dHDSP_B47G
DE3  1  8 dHDSP_B47G
DF3 10  8 dHDSP_B47G
DG3  5  8 dHDSP_B47G
DDP3 3  8 dHDSP_B47G

DA4 11  6 dHDSP_B47G
DB4  7  6 dHDSP_B47G
DC4  4  6 dHDSP_B47G
DD4  2  6 dHDSP_B47G
DE4  1  6 dHDSP_B47G
DF4 10  6 dHDSP_B47G
DG4  5  6 dHDSP_B47G

.MODEL dHDSP_B47G D
+ (  
+     IS = 5.45751596E-12 
+      N = 3.47011329 
+     RS = 12.18613587 
+     BV = 4.8 
+    IBV = 100u 
+ )  

.ENDS HDSP_B47G