*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-F157  
*  
* Parameters derived from information available in data sheet.  
*  
*                 common-anode 
*                 |  cathode-PLUS 
*                 |  |  cathode-MINUS 
*                 |  |  |  common-anode 
*                 |  |  |  |  cathode-DP 
*                 |  |  |  |  |  cathode-c 
*                 |  |  |  |  |  |  cathode-b
*                 |  |  |  |  |  |  |
.SUBCKT HDSP_F157 1  2  3  6  7  8  9

DPLUS1  1 2 dHDSP_F157
DMINUS1 1 3 dHDSP_F157
DB1     1 9 dHDSP_F157
DC1     1 8 dHDSP_F157
DDP1    1 7 dHDSP_F157

DPLUS2  6 2 dHDSP_F157
DMINUS2 6 3 dHDSP_F157
DB2     6 9 dHDSP_F157
DC2     6 8 dHDSP_F157
DDP2    6 7 dHDSP_F157

.MODEL dHDSP_F157 D
+ (  
+    IS  = 1.31055154E-15 
+     N  = 2.20660855 
+    RS  = 1.60736539 
+    BV  = 14.25
+   IBV  = 100u
+ )  

.ENDS HDSP_F157