*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-F158  
*  
* Parameters derived from information available in data sheet.  
*  
*                 common-cathode 
*                 |  anode-PLUS 
*                 |  |  anode-MINUS 
*                 |  |  |  common-cathode 
*                 |  |  |  |  anode-DP 
*                 |  |  |  |  |  anode-c 
*                 |  |  |  |  |  |  anode-b
*                 |  |  |  |  |  |  |
.SUBCKT HDSP_F158 1  2  3  6  7  8  9

DPLUS1  2 1 dHDSP_F158
DMINUS1 3 1 dHDSP_F158
DB1     9 1 dHDSP_F158
DC1     8 1 dHDSP_F158
DDP1    7 1 dHDSP_F158

DPLUS2  2 6 dHDSP_F158
DMINUS2 3 6 dHDSP_F158
DB2     9 6 dHDSP_F158
DC2     8 6 dHDSP_F158
DDP2    7 6 dHDSP_F158

.MODEL dHDSP_F158 D
+ (  
+    IS  = 1.31055154E-15 
+     N  = 2.20660855 
+    RS  = 1.60736539 
+    BV  = 14.25
+   IBV  = 100u
+ )  

.ENDS HDSP_F158