*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-F207  
*  
* Parameters derived from information available in data sheet.  
*  
*                 common-anode 
*                 |  cathode-PLUS 
*                 |  |  cathode-MINUS 
*                 |  |  |  common-anode 
*                 |  |  |  |  cathode-DP 
*                 |  |  |  |  |  cathode-c 
*                 |  |  |  |  |  |  cathode-b
*                 |  |  |  |  |  |  |
.SUBCKT HDSP_F207 1  2  3  6  7  8  9

DPLUS1  1 2 dHDSP_F207
DMINUS1 1 3 dHDSP_F207
DB1     1 9 dHDSP_F207
DC1     1 8 dHDSP_F207
DDP1    1 7 dHDSP_F207

DPLUS2  6 2 dHDSP_F207
DMINUS2 6 3 dHDSP_F207
DB2     6 9 dHDSP_F207
DC2     6 8 dHDSP_F207
DDP2    6 7 dHDSP_F207

.MODEL dHDSP_F207 D
+ (  
+     IS = 3.04174763E-24 
+      N = 1.23122391 
+     RS = 24.19303791 
+     BV = 30
+    IBV = 100u 
+ )  

.ENDS HDSP_F207