*  
* Diode Model Produced by Altium Ltd  
* Date:  10-Mar-2004 
*  
* Manufacturer: Agilent  
* Component Name: HDSP-F408  
*  
* Parameters derived from information available in data sheet.  
*  
*                 common-cathode 
*                 |  anode-PLUS 
*                 |  |  anode-MINUS 
*                 |  |  |  common-cathode 
*                 |  |  |  |  anode-DP 
*                 |  |  |  |  |  anode-c 
*                 |  |  |  |  |  |  anode-b
*                 |  |  |  |  |  |  |
.SUBCKT HDSP_F408 1  2  3  6  7  8  9

DPLUS1  2 1 dHDSP_F408
DMINUS1 3 1 dHDSP_F408
DB1     9 1 dHDSP_F408
DC1     8 1 dHDSP_F408
DDP1    7 1 dHDSP_F408

DPLUS2  2 6 dHDSP_F408
DMINUS2 3 6 dHDSP_F408
DB2     9 6 dHDSP_F408
DC2     8 6 dHDSP_F408
DDP2    7 6 dHDSP_F408

.MODEL dHDSP_F408 D
+ (  
+     IS = 3.04174763E-24 
+      N = 1.23122391 
+     RS = 24.19303791 
+     BV = 30
+    IBV = 100u 
+ )   

.ENDS HDSP_F408